* OPTO TRIAC
* Helmut Sennewald  8/10/2004
* MOC3020  I_trig=15mA
*  D+  D-  MT2  MT1
.SUBCKT MOC3020 1 2 3 4
.PARAM Itrig=15m
.PARAM RH1=20k
.PARAM RH2=20k
.PARAM RH3=16.7k
Q2 vb1 vb1p vd1 0 PNP1 off
Q1 vb1p vb1 4 0 NPN1 off
R3 vb1 4 {RH2}
D1 1 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10µ
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
B1 ctrl1 4 I=-500*I(D1)*3m/Itrig
R6 vd2 vb2 {RH2}
D3 vd2 3 D1
Q3 vb2 vb2p 4 0 PNP1 off
Q4 vb2p vb2 vd2 0 NPN1 off
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1}
R7 vb2p 4 {RH3}
D2 3 vd1 D1
R34 3 4 10000MEG
C34 3 4 30p
.MODEL PNP1 PNP(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL NPN1 NPN(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL D1 D(Is=0.1u Rs=2 Cj0=50p)
.MODEL DL D(Is=1e-20 Rs=5)
.ENDS
